US07053088B2
[(2-Morpholin-4-yl)quinolin-7-yl]-[6-(4-trifluoromethylphenyl)pyrimidin-4-yl]amine hydrochloride.
A solution of (2-chloroquinolin-7-yl)-[6-(4-trifluoromethylphenyl)pyrimidin-4-yl]amine, Example 13(b), (150 mg, 0.37 mmol) in morpholine (0.65 mL, 7.4 mmol, Aldrich) was stirred and heated in a microwave at 200° C. for 10 min. The resulting bright yellow solid was precipitated from EtOAc and CH2Cl2, then dissolved in EtOAc (100 mL) and treated with 1 N HCl (50 mL). The resulting bright yellow precipitate was collected by filtration, washed with water (20 mL), EtOAc (20 mL) and air-dried to provide the title product as a yellow amorphous solid. MS (ESI, pos. ion) m/z: 452 (M+1).

reactant | (2-chloroquinolin-7-yl)-[6-(4-trifluoromethylphenyl)pyrimidin-4-yl]amine | ClC1=NC2=CC(=CC=C2C=C1)NC1=NC=NC(=C1)C1=CC=C(C=C1)C(F)(F)F | C20H12ClF3N4
reactant | morpholine | 7.4 mmol, 0.65 mL | N1CCOCC1 | C4H9NO
product | [(2-Morpholin-4-yl)quinolin-7-yl]-[6-(4-trifluoromethylphenyl)pyrimidin-4-yl]amine hydrochloride | Cl.N1(CCOCC1)C1=NC2=CC(=CC=C2C=C1)NC1=NC=NC(=C1)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C24H20F3N5O.ClH/c25-24(26,27)18-5-1-16(2-6-18)20-14-22(29-15-28-20)30-19-7-3-17-4-8-23(31-21(17)13-19)32-9-11-33-12-10-32;/h1-8,13-15H,9-12H2,(H,28,29,30);1H
